US06518430B1
treating 1-hydroxy-8-nitro-6H-benzo[c]chromen-6-one with a second transition metal catalyst under a hydrogen atmosphere at a pressure of about 20 to about 60 psi, preferably about 40 psi, in a third solvent, preferably N-methylpyrrolidin-2-one (NMP) at a concentration of about 0.5M to about 1.0M, preferably 0.7M, to provide 8-amino-1-hydroxy-6H-benzo[c]chromen-6-one in NMP;

reactant | 1-hydroxy-8-nitro-6H-benzo[c]chromen-6-one | OC1=C2C3=C(C(OC2=CC=C1)=O)C=C(C=C3)[N+](=O)[O-] | C13H7NO5
solvent | NMP | CN1C(CCC1)=O | C5H9NO
product | 8-amino-1-hydroxy-6H-benzo[c]chromen-6-one | NC=1C=CC2=C(C(OC3=CC=CC(=C23)O)=O)C1 | C13H9NO3
